US06521771B2
Preparation of Ethyl 3-hydroxyoctanoate
7.64 g (0.117 mol) of zinc pretreated as described in Reference Example 1 were suspended in 50 ml of toluene, the mixture was heated to 83° C., the heat source was subsequently removed and a mixture of 11.4 ml (0.103 mol) of ethyl bromoacetate and 11.23 ml (0.0935 mol) of hexanal was added dropwise over a period of 30 minutes. After a brief induction phase, rigorous foaming and heating of the reaction mixture to 110° C. was observed. After all the mixture had been added, the resulting suspension was cooled to 8° C. by means of an ice/water mixture, after which 15 ml of 50% strength sulfuric acid was added dropwise at such a rate that the temperature of the suspension did not exceed 35° C. After phase separation, the organic phase was washed twice with 15 ml of water and dried over sodium sulfate. After filtration and removal of all volatile constituents on a rotary evaporator at 50° C./5 torr, the residue obtained was distilled in an oil pump vacuum at 2.5 torr. The fraction comprising ethyl 3-hydroxyoctanoate went over at 88-93° C. Yield: 12.25 g (70%).

reactant | ethyl bromoacetate | 0.103 mol, 11.4 ml | BrCC(=O)OCC | C4H7BrO2
reactant | hexanal | 0.0935 mol, 11.23 ml | C(CCCCC)=O | C6H12O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | 0.117 mol, 7.64 g | [Zn] | Zn
product | Ethyl 3-hydroxyoctanoate | OC(CC(=O)OCC)CCCCC | C10H20O3
